US07569577B2
tert-butyl 4-[(4-chloro-6-methoxyquinazolin-7-yl)oxy]piperidine-1-carboxylate was coupled with 3-ethynylaniline using an analogous process to that described in Example 22 (preparation of starting materials) for the preparation of N-(3-chloro-4-fluorophenyl)-6-methoxy-7-(piperidin-4-yloxy)quinazolin-4-amine hydrochloride, to give N-(3-ethynylphenyl)-6-methoxy-7-(piperidin-4-yloxy)quinazolin-4-amine hydrochloride 1H NMR Spectrum: (DMSO d6) 1.85-2.1 (m, 2H), 2.1-2.3 (m, 2H), 3.0-3.35 (m, 4H), 4.05 (s, 3H), 4.25 (s, 1H), 4.8-4.95 (m, 1H), 7.39 (d, 1H), 7.47 (dd, 1H), 7.6 (s, 1H), 7.8 (d, 1H), 7.89 (s, 1H), 8.5 (s, 1H), 8.83(s, 1H), 9.22 (bs, 2H), 11.68 (s, 1H); Mass Spectrum: (M+H)+ 375.

reactant | tert-butyl 4-[(4-chloro-6-methoxyquinazolin-7-yl)oxy]piperidine-1-carboxylate | ClC1=NC=NC2=CC(=C(C=C12)OC)OC1CCN(CC1)C(=O)OC(C)(C)C | C19H24ClN3O4
reactant | 3-ethynylaniline | C(#C)C=1C=C(N)C=CC1 | C8H7N
reactant | N-(3-chloro-4-fluorophenyl)-6-methoxy-7-(piperidin-4-yloxy)quinazolin-4-amine hydrochloride | Cl.ClC=1C=C(C=CC1F)NC1=NC=NC2=CC(=C(C=C12)OC)OC1CCNCC1
product | N-(3-ethynylphenyl)-6-methoxy-7-(piperidin-4-yloxy)quinazolin-4-amine hydrochloride | Cl.C(#C)C=1C=C(C=CC1)NC1=NC=NC2=CC(=C(C=C12)OC)OC1CCNCC1 | InChI=1S/C22H22N4O2.ClH/c1-3-15-5-4-6-16(11-15)26-22-18-12-20(27-2)21(13-19(18)24-14-25-22)28-17-7-9-23-10-8-17;/h1,4-6,11-14,17,23H,7-10H2,2H3,(H,24,25,26);1H
